US06235731B1
Diisobutylaluminium hydride(l.5 M in toluene, 30.5 ml, 45.8 mmol) was added dropwise to a stirred solution of ethyl 3-(4-tert-butoxycarbonylaminophenyl)propionate (6.10 g, 20.8 mmol) in tetrahydrofuran (60 ml) at 0° C. and the mixture was stirred at 0° C. for 1 hour. 2N-hydrochloric acid was added to the mixture and the mixture was extracted with ethyl acetate. The extract was successively washed with water, saturated aqueous NaHCO3 and brine, dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel (100 g) with hexane-ethyl acetate (3:2) to give 3-(4-tert-butoxycarbonylaminophenyl)propanol as a colorless oil (2.66 g, 51%).

reactant | Diisobutylaluminium hydride | 45.8 mmol, 5 M, 30.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl 3-(4-tert-butoxycarbonylaminophenyl)propionate | 20.8 mmol, 6.10 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCC(=O)OCC | C16H23NO4
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(4-tert-butoxycarbonylaminophenyl)propanol | 2.66 g, 51% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCCO | C14H21NO3
